2179-01-18 09:29:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 man with CAD sp CABG, V fib arrest sp ICD complicated by MRSA
   bacteremia, cardiomyopathy EF 20%, aortic graft for ascending AAA.
   Recent admission early [**Month (only) **] for ishchemic bowel requiring bowel
   resection.  [**1-17**] with SBP 70s, received 500cc NS bolus and transferred
   to ED.  CT torso notable for RLL atelectasis, bilateral pleural
   effusions, and unremarkable abd/pelvis.
   -Treated with vancomycin and zosyn
   -SBP remained in 80s on 1.5L crystalloid.  A central line was placed in
   ED and levophed was initiated.
   -Hct 22.2, stool guiac negative, ordered for 2U PRBC
   -Troponin 0.03, EKG with no acute changes
   MICU course:
   -2u PRBC administered, Hct 22.2 to 31
   -levophed off at 7AM
   -repeat troponin 0.04, CK 23
   24 Hour Events:
   -this AM in setting of accidental administration of 40 mcg levophed
   (wrong line used for flush) with diaphoresis and new hypoxemia 88% on
   2-3L NC, lasix 60mg IV administered and placed on face tent. EKG
   unchanged, no tachycardia or hypertension.
   Allergies:
   Heparin Flush (Intraven) (Heparin Sodium
   Porcine/Pf)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-1-17**] 08:00 PM
   Piperacillin - [**2179-1-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-1-17**] 08:00 PM
   Morphine Sulfate - [**2179-1-17**] 08:30 PM
   Other medications:
   amiodarone 200mg daily
   amitryptyline 10mg daily
   ASA 325mg daily
   atorvastatin 40mg daily
   keppra 500mg bedtime
   pantoprazole 40mg IV q12hr
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-1-18**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 70 (53 - 70) bpm
   BP: 105/49(63) {86/37(50) - 125/59(73)} mmHg
   RR: 21 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 2 (2 - 13)mmHg
   Total In:
                                                                  1,146 mL
                                                                    232 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    296 mL
                                                                    232 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,285 mL
                                                                  1,535 mL
   Urine:
                                                                  1,285 mL
                                                                  1,535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -139 mL
                                                                 -1,303 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Mechanical S1
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Absent, L BKA
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   254 K/uL
   124 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.1 mEq/L
   17 mg/dL
   101 mEq/L
   138 mEq/L
   33.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2179-1-17**]  01:42 PM
                             [**2179-1-17**]  11:55 PM
                             [**2179-1-18**]  06:44 AM
   WBC
   6.3
   Hct
   31.0
   33.4
   Plt
   254
   Cr
   1.1
   1.0
   TropT
   0.04
   Glucose
   79
   124
   Other labs: PT / PTT / INR:38.6/63.5/4.0, CK / CKMB /
   Troponin-T:23//0.04, D-dimer:210 ng/mL, Lactic Acid:1.4 mmol/L, LDH:208
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   67 yo male with CAD s/p CABG, systolic CHF EF 20%, mechanical AVR, DM2,
   HTN, h/o UTI, h/o CoNS bacteremia, recently admitted for ischemic bowel
   s/p small bowel resection and primary anastomosis now admitted to the
   MICU with hypotension likely septic shock.
   #septic shock
   -given CT torso results, concern for PICC line infection or aspiration
   pneumonia.  Will remove PICC line which was placed on [**2178-12-30**]
   -CVO2 66% prior to blood administration, will repeat CVO2 now with
   lactate
   -await results of blood and urine cultures, sputum just sent for
   culture
   -C. difficile pending
   -agree with vancomycin and zosyn as empiric coverage for now
   -repeat TTE
   #worsening hypoxemia likely due to volume overload
   -SBP now 130, gentle diuresis for goal net out 0.5L daily as long as
   hemodynamics remain stable
   -may need to use noninvasive ventilation as needed if hypoxemia
   worsened
   -current antibiotics would cover HAP and aspiration pneumonia also
   # CAD and mechanical AVR
   -haptoglobin low prior to blood transfusion but this may be related to
   mechanical AVR
   -continue to hold coumadin while monitoring INR (goal INR 2.5-3.5)
   -finish last set of cardiac enzymes
   -ASA on hold for now
   #blood tinged sputum
   -initial CT chest notable for no GGO and bilateral pleural effusions,
   doubt DAH
   -likely related to anticoagulation and elevated PCWP
   ICU Care
   Nutrition: npo while awaiting S/S
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2179-1-17**] 01:33 PM
   PICC Line - [**2179-1-17**] 01:34 PM will be removed
   Prophylaxis:
   DVT: on coumadin
   Stress ulcer: PPI given anticoagulation
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   emphasis/modifications:
   67 year old male with the past medical history and presentation as
   described in detail above.  At the time of my examination, he is off
   vasopressors but remains borderline hypotensive.  He has no complaints
   but is sleepy.
   T 36.8  P 70  BP 93/44  RR 16  Sat: 93% NC
   Sleepy but easily arousable
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: no edema
   Labs: as above
   CT: RLL atelectasis/infiltrate
   Assessment:
   1) Pneumonia
   2) Sepsis
   3) Myocardial Dysfunction
 known EF 25%
   4) AVR
 on coumadin
   5) Mild hemoptysis
   Plan:
   1) Continue broad-spectrum antibiotics
   2) Currently BP at baseline but will monitor closely -> gentle fluid
   bolus followed by pressors if drops -> if this occurs, will check
   central venous sat/cardiac output as may benefit from inotropes if
   hemodynamics deteriorate
   3)  Let coagulopathy auto-correct given valve.  Has some mild
   hemoptysis that began after deep suctioning.  No indication for
   intervention at this time but IP aware and if problem worsens in the
   night will intervene
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2179-1-18**] 20:15 ------

2179-01-19 10:02:00 Physician Attending Progress Note
Chief Complaint: hypotension.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2179-1-18**] 01:52 PM
 PICC LINE - STOP [**2179-1-18**] 03:20 PM
   Allergies:
   Heparin Flush (Intraven) (Heparin Sodium
   Porcine/Pf)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2179-1-18**] 12:00 AM
   Vancomycin - [**2179-1-18**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-1-19**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-1-19**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 66 (63 - 87) bpm
   BP: 106/54(67) {73/42(47) - 112/61(70)} mmHg
   RR: 19 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   CVP: 7 (-11 - 286)mmHg
   Mixed Venous O2% Sat: 60 - 60
   Total In:
                                                                  1,992 mL
                                                                    297 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                  1,482 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                  3,795 mL
                                                                    560 mL
   Urine:
                                                                  3,795 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,803 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/44/59/30/3
   PaO2 / FiO2: 74
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   RLL)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Absent, s/p BKA
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   249 K/uL
   104 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.5 mEq/L
   19 mg/dL
   99 mEq/L
   135 mEq/L
   31.0 %
   6.0 K/uL
        [image002.jpg]
                             [**2179-1-17**]  01:42 PM
                             [**2179-1-17**]  11:55 PM
                             [**2179-1-18**]  06:44 AM
                             [**2179-1-18**]  02:40 PM
                             [**2179-1-18**]  04:56 PM
                             [**2179-1-18**]  09:32 PM
                             [**2179-1-18**]  11:13 PM
                             [**2179-1-19**]  03:06 AM
   WBC
   6.3
   6.0
   Hct
   31.0
   33.4
   32.8
   31.2
   31.0
   Plt
   254
   249
   Cr
   1.1
   1.0
   1.0
   1.2
   TropT
   0.04
   TCO2
   30
   Glucose
   79
   124
   104
   Other labs: PT / PTT / INR:43.3/61.0/4.6, CK / CKMB /
   Troponin-T:25//0.04, D-dimer:210 ng/mL, Lactic Acid:1.2 mmol/L, LDH:208
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR:RLL infiltrate
   Microbiology: catheter tip pending,
   respiratory culture gram positive cocci.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):
   resolved off pressors. Source likely pneumonia vs PICC line infection.
   Follow up sputum and blood culture data. Continue Vanco/Zosyn pending
   this. check vanco trough
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC:
   Seems to be close to euvolemic, creatinine is slightly up. Will keep
   even. Resume home heart failure regimen. Wean off O2.
   Rest of Plan per HO note.
   ICU Care
   Nutrition:
   Comments: will start regular diet.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-1-17**] 01:33 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
    Overnight, had some low blood pressures that responded to 250 cc of
   fluid and essentially only occurred while sleeping.
   T 37.4  P 80s  RR 16  BP 110/60  Sat: 95%
   Awake, alert, talkative and no acute distress
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: No edema
   Labs: as above
   Assessment:
   1)       Pneumonia
   2)       Sepsis
 pneumonia most likely source though PICC line
   possible as well
   3)       CHF
   4)       S/P AVR
   Discussion/Plan: patient much more awake and alert today and clinically
   appears much better.  We will continue antibiotics for pneumonia/line
   infection and continue allow INR to drift down rather than reverse
   patient unless significant bleeding occurs.
   Time Spent:30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2179-1-19**] 05:19 PM ------

2179-01-20 11:20:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   PICC line NGTD.
   Allergies:
   Heparin Flush (Intraven) (Heparin Sodium
   Porcine/Pf)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2179-1-18**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2179-1-20**] 09:00 AM
   Vancomycin - [**2179-1-20**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-1-20**] 09:00 AM
   Other medications:
   amiodarone, atrovent nebs, amitryptlyline, neurontin, keppra, zosyn,
   asa, vanco, insulin SS, protonix, lactulose. Vanco, and zosyn day 4/
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-1-20**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 74 (63 - 81) bpm
   BP: 107/52(66) {86/41(53) - 122/68(81)} mmHg
   RR: 20 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   CVP: 5 (0 - 6)mmHg
   Total In:
                                                                  1,260 mL
                                                                    780 mL
   PO:
                                                                    400 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    860 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    935 mL
   Urine:
                                                                  1,570 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -310 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: Right base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, s/p Left BKA.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   258 K/uL
   96 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   14 mg/dL
   104 mEq/L
   140 mEq/L
   30.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2179-1-17**]  11:55 PM
                             [**2179-1-18**]  06:44 AM
                             [**2179-1-18**]  02:40 PM
                             [**2179-1-18**]  04:56 PM
                             [**2179-1-18**]  09:32 PM
                             [**2179-1-18**]  11:13 PM
                             [**2179-1-19**]  03:06 AM
                             [**2179-1-19**]  10:42 AM
                             [**2179-1-19**]  10:03 PM
                             [**2179-1-20**]  05:54 AM
   WBC
   6.3
   6.0
   5.3
   Hct
   31.0
   33.4
   32.8
   31.2
   31.0
   30.2
   29.8
   30.3
   Plt
   [**Telephone/Fax (3) 11474**]
   Cr
   1.0
   1.0
   1.2
   1.0
   TropT
   0.04
   TCO2
   30
   Glucose
   124
   104
   96
   Other labs: PT / PTT / INR:36.6/54.4/3.8, CK / CKMB /
   Troponin-T:25//0.04, Differential-Neuts:75.0 %, Band:0.0 %, Lymph:12.0
   %, Mono:10.0 %, Eos:2.0 %, D-dimer:210 ng/mL, Lactic Acid:1.2 mmol/L,
   LDH:208 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR: improvement in the RLL infiltrate.
   Microbiology: culture negative today.
   Sputum cx sparse respiratory flora.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK): resolved.
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC:
   euvolemic, continue to keep even. will need to resume his home
   torsemide before d/c, continue to monitor I/O.
 .Pneumonia: treating with Vanco and zosyn for 8days.
 AFib: elevated INR, now trending down, will resume coumadin at lower
   dose.
   Rest of plan per HO note.
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-1-17**] 01:33 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I have seen and examined the paitent with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   T 36.3  P 80  BP 107/60   RR 20  Sat: 96%
   Awake, alert NAD
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: +1 edema right leg
   Labs: as above
   Assessment:
   1)       Pneumonia
   2)       Sepsis
 likely secondary to pneumonia/line infection
   3)       CHF
   Plan:
   1)       Continue antibiotics for pneumonia line infection
   2)       Resume coumadin
   3)       As tolerated, can reintroduce bp meds/torsemide
   4)       Transfer to floor
   Time Spent: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 313**], MD
   on:[**2179-1-21**] 10:17 AM ------

2179-01-22 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2179-1-21**] 10:10 AM
 ARTERIAL LINE - START [**2179-1-21**] 11:39 AM
   - Brief episode, ~ 10 minutes, of hyptension to SBP 80s in SICU.
   Resolved spontaneously with pressures back to 90s.
   - Had put out 400 cc urine by 1500.
   Allergies:
   Heparin Flush (Intraven) (Heparin Sodium
   Porcine/Pf)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-1-21**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-1-22**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2179-1-21**] 10:26 AM
   Morphine Sulfate - [**2179-1-21**] 10:47 AM
   Fentanyl - [**2179-1-21**] 06:28 PM
   Pantoprazole (Protonix) - [**2179-1-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-1-22**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 73 (71 - 109) bpm
   BP: 99/50(64) {84/47(60) - 126/74(88)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    969 mL
                                                                    228 mL
   PO:
             TF:
   IVF:
                                                                    789 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    396 mL
   Urine:
                                                                  1,470 mL
                                                                    396 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -501 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 471 (471 - 471) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.47/36/87.[**Numeric Identifier 244**]/26/2
   Ve: 10.7 L/min
   PaO2 / FiO2: 220
   Physical Examination
   GEN:  Chronically ill appearing M, intubated, NAD
   HEENT:  Intubated, PERRLA, EOMI
   CV: Regular, tachycardic, 2/6 SEM, mechanical S2
   PULM: Crackles throughout
   ABD: Obese, NABS, soft, NTND
   EXT: L BKA, R with chronic venous stasis changes, in boot.  2+ edema to
   knees
   NEURO:  Following commands, nods to question
   Labs / Radiology
   270 K/uL
   10.3 g/dL
   196 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.7 mEq/L
   15 mg/dL
   100 mEq/L
   136 mEq/L
   31.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2179-1-19**]  03:06 AM
                             [**2179-1-19**]  10:42 AM
                             [**2179-1-19**]  10:03 PM
                             [**2179-1-20**]  05:54 AM
                             [**2179-1-21**]  05:57 AM
                             [**2179-1-21**]  11:30 AM
                             [**2179-1-21**]  01:08 PM
                             [**2179-1-21**]  01:44 PM
                             [**2179-1-22**]  04:00 AM
                             [**2179-1-22**]  04:15 AM
   WBC
   6.0
   5.3
   7.5
   Hct
   31.0
   30.2
   29.8
   30.3
   31.8
   Plt
   249
   258
   270
   Cr
   1.2
   1.0
   1.0
   1.1
   TropT
   0.03
   TCO2
   26
   25
   27
   Glucose
   104
   96
   255
   196
   Other labs: PT / PTT / INR:27.3/45.8/2.7, CK / CKMB /
   Troponin-T:22//0.03, Differential-Neuts:75.0 %, Band:0.0 %, Lymph:12.0
   %, Mono:10.0 %, Eos:2.0 %, D-dimer:210 ng/mL, Lactic Acid:2.0 mmol/L,
   LDH:208 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   [**2179-1-22**] CXR FINAL READ PENDING
   [**2179-1-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2179-1-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2179-1-18**]  CATHETER TIP-IV WOUND CULTURE-FINAL INPATIENT
   [**2179-1-18**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2179-1-17**]  URINE URINE CULTURE-FINAL INPATIENT
   Assessment and Plan
   67 yo M with sCHF EF 20%, [**Hospital3 5393**] AV, HTN, DM, recent partial
   colectomy for ischemic bowel transferred from floor for acute pulmonary
   edema after called out of ICU last night after treatment for
   hypotension from presumed HAP.
   #. Hypoxic Respiratory Failure: Likely flash pulmonary edema from
   acutely decompensated systolic heart failure given CXR with marked
   pulmonary edema and marked crackles on exam.  Has had multiple episodes
   of this in the past.  He responded well to a total of 180mg iv lasix
   with ~200cc out in the last 2 hours.  Known PNA may also contribute to
   respiratory instability. Currently on 500x14 with 10 of PEEP.  Gas
   7.26/56/86 after 1 hour on vent.
   - Lasix gtt to maintain 50-100cc UOP/hr with goal of 1-2L in next 24
   hours; change to Lasix bolus
   - Wean vent as tolerated
   - Continue vanc/zosyn for PNA, day 4 of abx
   - Continue home torsemide and spironlactone
   - Serial ABG's to monitor respiratory status
   - A-line in place
   - Will check CE though MI unlikely cause
   - PRN fentanyl for pain
   - Propofol gtt for sedation
   # Acute Respiratory Acidosis:  As above.  Will trend gases.  Baseline
   CO2 in the low 40's.
   - Diuresis as above
   - Trend ABG
   # Hospital-Acquired Pneumonia:  Contiune Vanc/Zosyn, day 4.
   # SCHF:  Decompensated as above. Echo [**1-18**] with EF 25%.
   - Will hold ACEi and BB for now given, add back once more stable
   # Diabetes:  Hyperglycemic this morning in code setting to 330's.
   - Continue home glargine 50u qhs and neurontin
   - Continue [**Last Name (LF) **], [**First Name3 (LF) 178**] uptitrate if needed
   # Mechanical Aortic Valve:  St. [**Male First Name (un) 6198**], goal INR 2.5-3.5.  Was 3 this
   morning.  Has been holding/getting decreaed dosing for supratherapeutic
   INR of 3.8.
   - Will increased coumadin to home dose of 2mg/day
   - Trend, adjust dose as needed
   # Anemia:  30, at patient's baseline, like [**1-26**] chronic disease. No e/o
   bleeding
   - T&S active
   - Trend daily
   # HTN: Holding meds as bp's now bordelrine low in setting of sedation
   and pain medication
   # Abdominal Pain: Per prior note, patient has chronic abd pain since
   surgery for ischemic bowel earlier this month.  Not complains of
   abdominal pain currently.  CT done on admission negative. C. diff
   negative.  Lactate wnl.
   - Trend
   #. Hep C:  Defer to out patient treatment
   # Seziure d/o: Continue home Keppra
   # FEN:  NPO for now, replete lytes prn, if needs IVF, give cautiously
   # PPX: PPI, coumadin INR 3, bowel regimen prn, VAP bundle
   # ACCESS: PIV, RIJ, A-line
   # CODE: FULL (confirmed with patient)
   # CONTACT: patient; sister [**Name (NI) 11093**] [**Telephone/Fax (1) 11457**]
   # DISPO: ICU pending clinical improvement; may be able to go to floor
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-1-21**] 10:10 AM
   Arterial Line - [**2179-1-21**] 11:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-01-22 09:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Systolic Heart Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diuresed 500cc yesterday
   Pt c/o leg pain
   24 Hour Events:
 MULTI LUMEN - START [**2179-1-21**] 10:10 AM
 ARTERIAL LINE - START [**2179-1-21**] 11:39 AM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Heparin Flush (Intraven) (Heparin Sodium
   Porcine/Pf)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2179-1-22**] 08:10 AM
   Vancomycin - [**2179-1-22**] 08:33 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2179-1-21**] 10:26 AM
   Morphine Sulfate - [**2179-1-21**] 10:47 AM
   Fentanyl - [**2179-1-22**] 07:45 AM
   Pantoprazole (Protonix) - [**2179-1-22**] 08:10 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-1-22**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.4
   HR: 80 (71 - 109) bpm
   BP: 117/56(74) {84/47(60) - 126/74(88)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    969 mL
                                                                    680 mL
   PO:
             TF:
   IVF:
                                                                    789 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    496 mL
   Urine:
                                                                  1,470 mL
                                                                    496 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -501 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 471 (471 - 471) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 34
   RSBI Deferred: No Spon Resp
   PIP: 6 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.47/36/87.[**Numeric Identifier 244**]/26/2
   Ve: 10.1 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   throughout insp/exp, Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   270 K/uL
   196 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.7 mEq/L
   15 mg/dL
   100 mEq/L
   136 mEq/L
   31.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2179-1-19**]  03:06 AM
                             [**2179-1-19**]  10:42 AM
                             [**2179-1-19**]  10:03 PM
                             [**2179-1-20**]  05:54 AM
                             [**2179-1-21**]  05:57 AM
                             [**2179-1-21**]  11:30 AM
                             [**2179-1-21**]  01:08 PM
                             [**2179-1-21**]  01:44 PM
                             [**2179-1-22**]  04:00 AM
                             [**2179-1-22**]  04:15 AM
   WBC
   6.0
   5.3
   7.5
   Hct
   31.0
   30.2
   29.8
   30.3
   31.8
   Plt
   249
   258
   270
   Cr
   1.2
   1.0
   1.0
   1.1
   TropT
   0.03
   TCO2
   26
   25
   27
   Glucose
   104
   96
   255
   196
   Other labs: PT / PTT / INR:27.3/45.8/2.7, CK / CKMB /
   Troponin-T:22//0.03, Differential-Neuts:75.0 %, Band:0.0 %, Lymph:12.0
   %, Mono:10.0 %, Eos:2.0 %, D-dimer:210 ng/mL, Lactic Acid:2.0 mmol/L,
   LDH:208 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 .H/O ANEMIA, OTHER
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O DECUBITUS ULCER (PRESENT AT ADMISSION)
 .H/O PNEUMONIA, ASPIRATION
   67 yo man h/o of CHF (EF 20%), AVR, and recent partial colectomy for
   ischemic colitis.  He presented this hospitalization from rehab from
   suspected pneumonia and septic shock.  He was transferred to the floor
   after stabization of his hemodynamics and respiratory status.  He was
   readmitted to the ICU with flash pulmonary edema resulting in
   intubation
   Respiratory Failure
 Extubated this AM after doing well on SBT.
   Continue efforts at diuresis with Lasix gtt with goal of 1L negative.
   Restart ACE-I.  Cont vanc/Zosyn
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-1-21**] 10:10 AM
   Arterial Line - [**2179-1-21**] 11:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2179-01-23 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Flash Pulmonary Edema
   24 Hour Events:
   - Extubated early in the morning.
   - Started PO Oxycodone for pain control.
   - Started regular diet.
   - Continued Lasix gtt; increased throughout the day. (net fluid balance
   0 at around 1400 - increased gtt to 8mg/hr; net fluid balance -200 at
   around 1900 - increased gtt to 9mg/hr; net fluid balance -200 at around
   0200 - increased gtt to 10mg/hr)
   Allergies:
   Heparin Flush (Intraven) (Heparin Sodium
   Porcine/Pf)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-1-22**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-1-23**] 12:04 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2179-1-22**] 07:45 AM
   Morphine Sulfate - [**2179-1-22**] 11:59 AM
   Pantoprazole (Protonix) - [**2179-1-22**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-1-23**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 83 (68 - 94) bpm
   BP: 102/48(65) {97/44(60) - 136/60(81)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  1,998 mL
                                                                    324 mL
   PO:
                                                                    750 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,128 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  2,671 mL
                                                                    790 mL
   Urine:
                                                                  2,671 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -673 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 471 (471 - 471) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 34
   PIP: 6 cmH2O
   SpO2: 93%
   ABG: ///27/
   Ve: 10.1 L/min
   Physical Examination
   GEN:  Chronically ill appearing M, intubated, NAD
   HEENT:  Intubated, PERRLA, EOMI
   CV: Regular, tachycardic, 2/6 SEM, mechanical S2
   PULM: Crackles throughout
   ABD: Obese, NABS, soft, NTND
   EXT: L BKA, R with chronic venous stasis changes, in boot.  2+ edema to
   knees
   NEURO:  Following commands, nods to question
   Labs / Radiology
   268 K/uL
   9.7 g/dL
   219 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   18 mg/dL
   98 mEq/L
   134 mEq/L
   30.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2179-1-20**]  05:54 AM
                             [**2179-1-21**]  05:57 AM
                             [**2179-1-21**]  11:30 AM
                             [**2179-1-21**]  01:08 PM
                             [**2179-1-21**]  01:44 PM
                             [**2179-1-22**]  04:00 AM
                             [**2179-1-22**]  04:15 AM
                             [**2179-1-22**]  03:50 PM
                             [**2179-1-23**]  12:23 AM
                             [**2179-1-23**]  04:44 AM
   WBC
   5.3
   7.5
   7.7
   Hct
   30.3
   31.8
   30.1
   Plt
   258
   270
   268
   Cr
   1.0
   1.0
   1.1
   1.1
   1.1
   1.1
   TropT
   0.03
   TCO2
   26
   25
   27
   Glucose
   96
   255
   196
   250
   257
   219
   Other labs: PT / PTT / INR:26.1/42.9/2.5, CK / CKMB /
   Troponin-T:22//0.03, Differential-Neuts:75.0 %, Band:0.0 %, Lymph:12.0
   %, Mono:10.0 %, Eos:2.0 %, D-dimer:210 ng/mL, Lactic Acid:2.0 mmol/L,
   LDH:208 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR: Pending
   Microbiology: Blood Cx: Pending
   Urine Cx: Final NG
   Assessment and Plan
   67 yo M with sCHF EF 20%, [**Hospital3 5393**] AV, HTN, DM, recent partial
   colectomy for ischemic bowel transferred from floor for acute pulmonary
   edema after called out of ICU last night after treatment for
   hypotension from presumed HAP.
   # Hypoxic Respiratory Failure: Currently extubated. Likely flash
   pulmonary edema from acutely decompensated systolic heart failure given
   CXR with marked pulmonary edema and marked crackles on exam.  Has had
   multiple episodes of this in the past.
   - Lasix gtt to maintain 50-100cc UOP/hr with goal of 1-2L
   - Continue vanc/zosyn for PNA, day 4 of abx
   - Continue home torsemide and spironlactone
   - PRN fentanyl for pain
   # Acute Respiratory Acidosis:  As above.  Will trend gases.  Baseline
   CO2 in the low 40's.
   - Diuresis as above, Lasix gtt
   - Trend ABG
   # Hospital-Acquired Pneumonia:  Contiune Vanc/Zosyn, day 5.
   # SCHF:  Decompensated as above. Echo [**1-18**] with EF 25%.
   - Will hold ACEi and BB for now given, add back once more stable
   # Diabetes:  Hyperglycemic this morning in code setting to 330's.
   - Continue home Glargine 50u qhs and Neurontin
   - Continue [**Last Name (LF) **], [**First Name3 (LF) 178**] uptitrate if needed
   # Mechanical Aortic Valve:  St. [**Male First Name (un) 6198**], goal INR 2.5-3.5.  Was 3 this
   morning.  Has been holding/getting decreaed dosing for supratherapeutic
   INR of 3.8.
   - Home Coumadin
   - Trend, adjust dose as needed
   # Anemia:  30, at patient's baseline, like [**1-26**] chronic disease. No e/o
   bleeding
   - T&S active
   - Trend daily
   # HTN: Holding meds as bp's now bordelrine low in setting of sedation
   and pain medication
   # Abdominal Pain: Per prior note, patient has chronic abd pain since
   surgery for ischemic bowel earlier this month.  Not complains of
   abdominal pain currently.  CT done on admission negative. C. diff
   negative.  Lactate wnl.
   - Trend
   - Follow up surgery recommendations for wound
   - PRN fentanyl for pain
   #. Hep C:  Defer to out patient treatment
   # Seziure d/o: Continue home Keppra
   # FEN:  NPO for now, replete lytes prn, if needs IVF, give cautiously
   # PPX: PPI, coumadin INR 3, bowel regimen prn, VAP bundle
   # ACCESS: PIV, RIJ, A-line
   # CODE: FULL (confirmed with patient)
   # CONTACT: patient; sister [**Name (NI) 11093**] [**Telephone/Fax (1) 11457**]
   # DISPO: ICU pending clinical improvement; may be able to go to floor
   today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular and [**Telephone/Fax (1) **]
   Lines:
   Multi Lumen - [**2179-1-21**] 10:10 AM
   Arterial Line - [**2179-1-21**] 11:39 AM
   Prophylaxis:
   DVT: Coumadin
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: To Floor.

2179-01-23 10:38:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, systolic heart failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2179-1-22**] 05:45 PM
Extubated
Continued Lasix gtt
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Flush (Intraven) (Heparin Sodium
   Porcine/Pf)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-1-22**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2179-1-23**] 07:56 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2179-1-22**] 11:59 AM
   Pantoprazole (Protonix) - [**2179-1-23**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2179-1-23**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 71 (68 - 94) bpm
   BP: 82/39(50) {82/39(50) - 82/39(50)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  1,998 mL
                                                                  1,127 mL
   PO:
                                                                    750 mL
                                                                    740 mL
   TF:
   IVF:
                                                                  1,128 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                  2,671 mL
                                                                    930 mL
   Urine:
                                                                  2,671 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -673 mL
                                                                    197 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   268 K/uL
   219 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   18 mg/dL
   98 mEq/L
   134 mEq/L
   30.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2179-1-20**]  05:54 AM
                             [**2179-1-21**]  05:57 AM
                             [**2179-1-21**]  11:30 AM
                             [**2179-1-21**]  01:08 PM
                             [**2179-1-21**]  01:44 PM
                             [**2179-1-22**]  04:00 AM
                             [**2179-1-22**]  04:15 AM
                             [**2179-1-22**]  03:50 PM
                             [**2179-1-23**]  12:23 AM
                             [**2179-1-23**]  04:44 AM
   WBC
   5.3
   7.5
   7.7
   Hct
   30.3
   31.8
   30.1
   Plt
   258
   270
   268
   Cr
   1.0
   1.0
   1.1
   1.1
   1.1
   1.1
   TropT
   0.03
   TCO2
   26
   25
   27
   Glucose
   96
   255
   196
   250
   257
   219
   Other labs: PT / PTT / INR:26.1/42.9/2.5, CK / CKMB /
   Troponin-T:22//0.03, Differential-Neuts:75.0 %, Band:0.0 %, Lymph:12.0
   %, Mono:10.0 %, Eos:2.0 %, D-dimer:210 ng/mL, Lactic Acid:2.0 mmol/L,
   LDH:208 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   67 yo man h/o of CHF (EF 20%), AVR, and recent partial colectomy for
   ischemic colitis.  He presented this hospitalization from rehab from
   suspected pneumonia and septic shock.  He was transferred to the floor
   after stabilization of his hemodynamics and respiratory status.  He was
   readmitted to the ICU with flash pulmonary edema resulting in
   intubation
 PNEUMONIA, [**Hospital 57**] HOSPITAL ACQUIRED (NON-VAP)
   -vanc/zosyn
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
   -diuresing with lasix drip
   -ACE restarted
 Respiratory Failure
 Extubated doing well
   - sats good - cont diuresis
    Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2179-1-21**] 10:10 AM
   Arterial Line - [**2179-1-21**] 11:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: